US06936608B2
d) 4-Fluoro-3-(pyridin-2-yl)phenylboronic Acid
To 2-(5-bromo-2-fluorophenyl)pyridine (544 mg, 2.16 mmol) and bis(neopentyl glycolato)diborane (585 mg, 2.60 mmol) under nitrogen was added dry potassium acetate (450 mg, 4.58 mmol), anhydrous 1,4-dioxane (8 ml) and DMSO (1 ml). The mixture was degassed with nitrogen, and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (50 mg, 3 mol %) was added. After stirring at 85° C. under nitrogen for 15 h, the mixture was cooled to room temperature, and sodium hydroxide solution (20 ml of a 1 M solution) was added. The mixture was stirred for 10 min, and was then extracted twice with diethyl ether. The combined ether extractions were washed with water, then the combined aqueous layers were filtered through a glass fibre filter paper. The pH of the filtrate was adjusted to 6 by the addition of 2 N hydrochloric acid, precipitating a white solid. This was collected by filtration, washed with water and dried in vacuo at 60° C., and was found to be 4-fluoro-3-(pyridin-2-yl)phenylboronic acid (455 mg, 97%): 1H NMR (400 MHz, DMSO) δ 7.30 (1H, dd, J 8.2, 11.7 Hz), 7.41 (1H, m), 7.77 (1H, m), 7.90 (2H, m), 8.16 (2H, s), 8.36 (1H, dd, J 1.6, 8.6 Hz), 8.72 (1H, m).

reactant | 2-(5-bromo-2-fluorophenyl)pyridine | 2.16 mmol, 544 mg | BrC=1C=CC(=C(C1)C1=NC=CC=C1)F | C11H7BrFN
reactant | bis(neopentyl glycolato)diborane | 2.60 mmol, 585 mg | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
reactant | potassium acetate | 4.58 mmol, 450 mg | C(C)(=O)[O-].[K+]
reactant | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | 4-Fluoro-3-(pyridin-2-yl)phenylboronic Acid | FC1=C(C=C(C=C1)B(O)O)C1=NC=CC=C1 | C11H9BFNO2
